US08258119B2
Diazotization of methyl 4-aminothiophene-3-carboxylate with sodium nitrite followed by treatment with dimethylamine provides methyl 4-[(dimethylamino)diazenyl]thiophene-3-carboxylate. Treatment of the ester with ammonia gave the required 4-[dimethylamino)diazenyl]thiophene-3-carboxamide (compd. No. 13). The methyl 4-aminothiophene-3-carboxylate is produced using known procedures in the prior art (33, 34, 35). Thus addition of methyl acrylate to methyl thioglycolate provided methyl 3-[(methoxycarbonyl)methylthio]propanoate in quantitative yield, which on cyclization in presence of sodium methoxide gave methyl 4-oxo-2,3,5-trihydrothiophene-3-carboxylate. Treatment of methyl 4-oxo-2,3,5-trihydrothiophene-3-carboxylate with hydroxylamine followed by basification with ammonia gave methyl 4-aminothiophene-3-carboxylate.

reactant | methyl 4-oxo-2,3,5-trihydrothiophene-3-carboxylate | COC(=O)C1CSCC1=O | C6H8O3S
reactant | hydroxylamine | NO | H3NO
reactant | ammonia | N | H3N
product | methyl 4-aminothiophene-3-carboxylate | NC=1C(=CSC1)C(=O)OC | C6H7NO2S
